US05356885
Racemic 2-methyl-4-pentenoic acid phenylmethyl ester
To a 0° C. solution of 23.8 g of benzyl alcohol, 0.05 g of 4-(dimethylamino)pyridine, 18.3 g of pyridine and 250 ml of methylene chloride is added, dropwise, a solution of 29.5 g of racemic 2-methyl-4-pentenoyl chloride in 50 ml of methylene chloride. The mixture is stirred at room temperature for 4 hours, followed by successive washing with 2N hydrochloric acid, saturated sodium bicarbonate and saturated sodium chloride. The organic layer is dried and concentrated in vacuo. The residue is purified by Kugelrohr distillation to give 35.2 g of the desired product as a colorless oil; bp 70°-75° C. at 0.10 mm Hg.

reactant | benzyl alcohol | 23.8 g | C(C1=CC=CC=C1)O | C7H8O
reactant | pyridine | 18.3 g | N1=CC=CC=C1 | C5H5N
reactant | racemic 2-methyl-4-pentenoyl chloride | 29.5 g | CC(C(=O)Cl)CC=C | C6H9ClO
catalyst | 4-(dimethylamino)pyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | Racemic 2-methyl-4-pentenoic acid phenylmethyl ester | 35.2 g | C1(=CC=CC=C1)COC(C(CC=C)C)=O | C13H16O2
